US03992441
3-Chloro-5-(3,5-dimethylpiperidinosulfonyl)benzoic Acid
3-Chloro-5-chlorosulfonylbenzoic acid (770 mg., 3 m moles) is added to a solution of 3,5-dimethylpiperidine hydrochloride in 30 ml. of water followed by the portionwise addition of 12 ml. of 1N sodium hydroxide solution with stirring. After 1.5 hrs. at room temperature the reaction mixture is filtered and the filtrate acidified with 12N hydrochloric acid.The product, 600 mg., m.p. 226°-231° C., is recrystallized from acetone-hexane, 390 mg., m.p. 232.5°-234° C.

reactant | 3-Chloro-5-chlorosulfonylbenzoic acid | 770 mg | ClC=1C=C(C(=O)O)C=C(C1)S(=O)(=O)Cl | C7H4Cl2O4S
reactant | 3,5-dimethylpiperidine hydrochloride | Cl.CC1CNCC(C1)C
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | water | O | H2O
product | 3-Chloro-5-(3,5-dimethylpiperidinosulfonyl)benzoic Acid | ClC=1C=C(C(=O)O)C=C(C1)S(=O)(=O)N1CC(CC(C1)C)C | C14H18ClNO4S
